US05441971
Sodium hydride in oil (60%, 1.6 g) was added in small portions with ice-cooling to a solution of 2-[5-(1-methoxymethoxyethyl)-2-pyridyl]ethanol (7.5 g) and 4-fluoronitrobenzene (5.0 g) in N,N-dimethylformamide (50 ml). The reaction mixture was stirred with ice-cooling for additional 1 hour, poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The oily residue was subjected to silica gel column chromatography. A fraction eluted with chloroform-methanol (40:1, v/v) gave 5-(1-methoxymethoxyethyl)-2-[2-(4-nitrophenoxy)ethyl]pyridine (8.4 g, yield: 71%) as oil.

reactant | Sodium hydride | [H-].[Na+]
reactant | 2-[5-(1-methoxymethoxyethyl)-2-pyridyl]ethanol | 7.5 g | COCOC(C)C=1C=CC(=NC1)CCO | C11H17NO3
reactant | 4-fluoronitrobenzene | 5.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-(1-methoxymethoxyethyl)-2-[2-(4-nitrophenoxy)ethyl]pyridine | 8.4 g, yield: 71% | COCOC(C)C=1C=CC(=NC1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C17H20N2O5
